US05582764
36.0 g (0.1 mol) of 4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl bromide was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of tetrakis triphenylphosphine palladium and 87.1 g (0.1 mol) of 4-bromo-2,6,3',5'-tetrafluoro-4'-difluoromethoxybiphenyl. After a conventional after treatment, 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-2,6,3',5'-tetrafluoro-4'-difluoromethoxybiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 40.0 g (yield 70.1%) of the trans isomer.

reactant | 4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl bromide | 0.1 mol, 36.0 g | C(CCCC)[Si@@H]1CC[C@H](CC1)CCC1CCC(CC1)Br | C18H35BrSi
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | 4-bromo-2,6,3',5'-tetrafluoro-4'-difluoromethoxybiphenyl | 0.1 mol, 87.1 g | BrC1=CC(=C(C(=C1)F)C1=CC(=C(C(=C1)F)OC(F)F)F)F | C13H5BrF6O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-pentyl-4-silacyclohexyl)ethyl)cyclohexyl)-2,6,3',5'-tetrafluoro-4'-difluoromethoxybiphenyl | yield 70.1% | C(CCCC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C1=CC(=C(C(=C1)F)OC(F)F)F)F | C31H40F6OSi
